US04213984
5,11-Dihydro-11-{[4-(2-morpholino-ethyl)-1-piperazinyl]acetyl}-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one was prepared from 8.62 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one, 3.5 gm of sodium carbonate and 6.1 gm of 1-(2-morpholino-ethyl)piperazine in 100 ml of absolute ethanol in analogy to Example 1.

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one | 8.62 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | sodium carbonate | 3.5 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(2-morpholino-ethyl)piperazine | 6.1 gm | O1CCN(CC1)CCN1CCNCC1 | C10H21N3O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5,11-Dihydro-11-{[4-(2-morpholino-ethyl)-1-piperazinyl]acetyl}-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | O1CCN(CC1)CCN1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H30N6O3
